;Spice netlist for an inverter and a capacitor
simulator lang=spectre

include "~/ECEN714/lab_01/cadence/cellcharacs/model18.spi"
include "~/ECEN714/lab_01/cadence/cellcharacs/cell18.spi"

vgnd (gnd 0) vsource dc=0
vvdd (vdd 0) vsource dc=1.8

vpwl (IV_in 0) vsource type=pwl wave=[0n 0 1n 0 1.2n 1.8 4n 1.8 4.2n 0]

X1 (IV_in IV_out vdd gnd) NAND wp=0.6u lp=0.2u wn=0.3u ln=0.2u 


R1 (IV_out 1) resistor r=1
C1 (1 0) capacitor c=100f

TransientAnalysis tran start=0 stop=10ns step=1ps
save IV_in IV_out





